US07279576B2
To a solution of 1-methyl-[1,2,4]triazolidine-3,5-dione (1.886 g, 0.0164 mol) and sodium hyhride (200 mg) in DMSO (5 mL) was added 4-chloromethyl-benzoic acid methyl ester (1.0 g, 0.0054 mol). The mixture was stirred at RT for overnight, quenched with H2O (100 mL), and extracted by CH2Cl2. The organic layer was washed with H2O, dried (Na2SO4) and concentrated in vacuo to yield methyl 4-((1-methyl-3,5-dioxo-1,2,4-triazolidin4-yl)methyl)benzoate (1.02 g, 72%). 1H NMR (CDCl3): 7.93 (d, J=8.4 Hz, 2H), 7.27 (d, J=8.4 Hz, 2H), 4.68 (s, 2H), 3.83 (s, 3H), 3.27 (s, 3H). MS (ESI) m/e: 264 (M++1)

reactant | 1-methyl-[1,2,4]triazolidine-3,5-dione | 0.0164 mol, 1.886 g | CN1NC(NC1=O)=O | C3H5N3O2
reactant | sodium | [Na] | Na
reactant | 4-chloromethyl-benzoic acid methyl ester | 0.0054 mol, 1.0 g | COC(C1=CC=C(C=C1)CCl)=O | C9H9ClO2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | methyl 4-((1-methyl-3,5-dioxo-1,2,4-triazolidin4-yl)methyl)benzoate | 1.02 g, 72% | CN1NC(N(C1=O)CC1=CC=C(C(=O)OC)C=C1)=O | C12H13N3O4
